US04562199
3-[3-Chloro-4-(imidazol-1-ylmethyl)phenyl]propanoic acid hydrochloride
A mixture of (E)-3-[3-chloro-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoic acid hydrochloride (0.07 g) and 5% palladium on barium sulphate (0.01 g) in ethanol was stirred under an atmosphere of hydrogen until the theoretical amount of hydrogen had been consumed. The catalyst was then filtered off (Hyflo) and the reaction mixture was concentrated to affored a colourless oil. N.M.R. spectroscopy of the product showed that it was consistent with the proposed structure.

reactant | (E)-3-[3-chloro-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoic acid hydrochloride | 0.07 g | Cl.ClC=1C=C(C=CC1CN1C=NC=C1)/C=C/C(=O)O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 3-[3-Chloro-4-(imidazol-1-ylmethyl)phenyl]propanoic acid hydrochloride | Cl.ClC=1C=C(C=CC1CN1C=NC=C1)CCC(=O)O | InChI=1S/C13H13ClN2O2.ClH/c14-12-7-10(2-4-13(17)18)1-3-11(12)8-16-6-5-15-9-16;/h1,3,5-7,9H,2,4,8H2,(H,17,18);1H
